US08383639B2
2-(1-(4-Fluorobenzyl)-1H-1,2,4-triazol-3-yl)-3-hydroxy-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one.
To a solution of 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbothioamide (0.042 g, 0.122 mmol, 1.0 equiv) in acetonitrile (1.2 mL) under a nitrogen atmosphere, was added MeI (0.038 mL, 0.61 mmol, 5 equiv). The reaction was heated at 40° C. (oil bath) for 1 h. The reaction was then cooled to ambient temperature and concentrated in vacuo. N-(4-Fluorobenzyl)formohydrazide (0.045 g, 0.268 mmol, 2.2 equiv) was then added to the residue followed by DMF (1.5 mL) and the solution was heated at 140° C. (oil bath). After stirring 1 h, the reaction was cooled to ambient temperature stirred 17 h. The reaction was added to a saturated aqueous solution of NaHCO3 and extracted with CH2Cl2 (×3). The combined CH2Cl2 extracts were dried (Na2SO4) and then concentrated in vacuo. The crude product was purified by reverse phase preparatory HPLC and trituration from ether to provide the title compound (0.024 g, 53% yield) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.10 (s, 1H), 7.29-7.35 (m, 2H), 7.07-7.14 (m, 2H), 5.44 (s, 2H), 4.02-4.10 (m, 4H), 1.68 (s, 6H); LCMS (ES+, (M+H)+) m/z 372.20.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbothioamide | 0.122 mmol, 0.042 g, 1.0 equiv | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(N)=S | C17H19N3O3S
reactant | MeI | 0.61 mmol, 0.038 mL, 5 equiv | CI | CH3I
reactant | N-(4-Fluorobenzyl)formohydrazide | 0.268 mmol, 0.045 g, 2.2 equiv | FC1=CC=C(CN(N)C=O)C=C1 | C8H9FN2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 1.2 mL | C(C)#N | C2H3N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-(1-(4-Fluorobenzyl)-1H-1,2,4-triazol-3-yl)-3-hydroxy-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one | 0.024 g, 53% yield | FC1=CC=C(CN2N=C(N=C2)C=2N=C3C(OCCN3C(C2O)=O)(C)C)C=C1 | C18H18FN5O3
